** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/vco.sch
.subckt vco VDD out vctrl VSS nout
*.PININFO VSS:B VDD:B nout:B out:B vctrl:B
CC1 vc VSS cap_cmomi w=30e-6 l=30e-6
MM4 vc out 5uA- VSS sg13_hv_nmos w=0.3u l=0.45u ng=1
x1 VDD s out nout r VSS hv_rs-ff
MM6 vc out 5uA+ VDD sg13_hv_pmos w=0.3u l=0.4u ng=1
x5 net2 vc vthl VDD 40uA- VSS comp_pmos
x7 net1 vthh vc VDD 40uA+ VSS comp_nmos
x2 10uA- vthl VDD vctrl VSS vthh voltage_mirror_pmos
x3 VDD net1 s VSS hv_inverter_6u5
x6 VDD net2 r VSS hv_inverter_6u5
x8 40uA+ 5uA+ VDD VSS 5uA- 10uA- 40uA- bias_current_generator
**** begin user architecture code


.ic v(vc)=1.65




.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u

.param inv_ng = 1
.param inv_n_w = 2u
.param inv_n_l = 0.45u
.param inv_p_w = 6.5u
.param inv_p_l = 0.4u


**** end user architecture code
.ends

* expanding   symbol:  hv_rs-ff.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sch
.subckt hv_rs-ff VDD nS Q nQ nR VSS
*.PININFO nS:I VDD:B VSS:B Q:O nR:I nQ:O
x4 VDD nS Q nQ VSS hv_nand
x5 VDD Q nQ nR VSS hv_nand
.ends


* expanding   symbol:  comp_pmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sch
.subckt comp_pmos out - + VDD Ibias VSS
*.PININFO VDD:B VSS:B Ibias:I out:O +:I -:I
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u
.param bcm = 1


**** end user architecture code
MM9 net1 Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1
MM10 out Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1
MM11 Ibias Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM12 net3 + net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM13 net2 - net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM14 net3 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM15 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM16 out net3 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
.ends


* expanding   symbol:  comp_nmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sch
.subckt comp_nmos out - + VDD Ibias VSS
*.PININFO VDD:B VSS:B -:I +:I Ibias:I out:O
MM8 net2 + net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM6 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM1 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM3 net1 - net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u


**** end user architecture code
MM2 out net2 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM4 net3 Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1
MM5 out Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1
MM7 Ibias Ibias VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
.ends


* expanding   symbol:  voltage_mirror_pmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror_pmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror_pmos.sch
.subckt voltage_mirror_pmos Ibias nout VDD in VSS out
*.PININFO VDD:B VSS:B in:I out:O nout:O Ibias:I
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
RR1 in Ibias 100.84k $SUB=VSS $[rhigh] w=0.5e-6 l=34e-6 b=0
MM4 net1 Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM5 out net1 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
RR2 VSS nout 100.84k $SUB=VSS $[rhigh] w=0.5e-6 l=34e-6 b=0
RR3 out VDD 100.84k $SUB=VSS $[rhigh] w=0.5e-6 l=34e-6 b=0
MM2 net1 net1 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM3 nout Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM6 Ibias Ibias VDD VDD sg13_hv_pmos w=1.9*p_w l=p_l ng=1
.ends


* expanding   symbol:  hv_inverter_6u5.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_6u5.sch
.subckt hv_inverter_6u5 VDD in out VSS
*.PININFO in:I VDD:B VSS:B out:O
MM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
**** begin user architecture code


.param ng  = 1
.param n_ng = ng
.param n_w = {2u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {6.5u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  bias_current_generator.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/bias_current_generator.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/bias_current_generator.sch
.subckt bias_current_generator 40uA+ 5uA+ VDD VSS 5uA- 10uA- 40uA-
*.PININFO 40uA+:O VSS:B VDD:B 40uA-:O 10uA-:O 5uA+:O 5uA-:O
x4 VDD net1 VSS current_reference_40uA
MM11 net1 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM12 40uA+ net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM13 net2 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM14 net2 net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1
MM15 40uA- net2 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1
MM1 net3 net1 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM2 net3 net3 VSS VSS sg13_hv_nmos w=4*cm_n_w l=cm_n_l ng=4
MM3 10uA- net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1
MM5 net4 net3 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1
MM25 net4 net4 VDD VDD sg13_hv_pmos w=2*cm_p_w l=cm_p_l ng=2
MM26 net5 net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM27 5uA+ net4 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1
MM28 net5 net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=2
MM29 5uA- net5 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1
**** begin user architecture code


.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u


**** end user architecture code
.ends


* expanding   symbol:  hv_nand.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sch
.subckt hv_nand VDD in1 out in2 VSS
*.PININFO in1:I VDD:B VSS:B out:O in2:I
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
MM2 out in1 net1 VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM3 out in2 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
MM1 net1 in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng}
MM4 out in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng}
.ends


* expanding   symbol:  current_reference_40uA.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sch
.subckt current_reference_40uA VDD iout VSS
*.PININFO VSS:B VDD:B iout:B
MM8 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM6 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM1 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1
MM3 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
RR2 net3 net4 2.8735k $SUB=VSS $[rppd] w=2e-6 l=21.9e-6 b=0
MM2 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM4 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM5 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1
MM7 iout net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1
RR3 net4 VSS 5.0278k $SUB=VSS $[rsil] w=0.5e-6 l=365e-6
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
.ends

