** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/testbenches/xschem/res_tb_cm.sch
**.subckt res_tb_cm
VDD VDD GND {VDD}
VS vsweep GND 0
Vmeas vd net1 0
.save i(vmeas)
vc vc_p GND 3.3
x1 VDD vc_p net1 vb GND vinv transmission_gate
E2 vd GND VOL=' V(vcm_sweep)+V(vsweep)/2 '
E3 vb GND VOL=' V(vcm_sweep)-V(vsweep)/2 '
Vcm vcm_sweep GND 1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param v1=0
.csparam v1=v1
.param v2=0
.csparam v2=v2
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control
let vcc = 0.5

save all
set appendwrite



repeat 5
  alter Vcm $&vcc

  * DC Sweep
  dc VS -1 1 10m
  remzerovec
  let vcc = vcc + 0.460
end
write res_tb_cm.raw
set appendwrite

* Plotting
plot dc1.i(Vmeas) dc2.i(Vmeas) dc3.i(Vmeas) dc4.i(Vmeas) dc5.i(Vmeas)
plot dc1.v(vsweep)/dc1.i(Vmeas) dc2.v(vsweep)/dc2.i(Vmeas) dc3.v(vsweep)/dc3.i(Vmeas) dc4.v(vsweep)/dc4.i(Vmeas) dc5.v(vsweep)/dc5.i(Vmeas)
*plot dc1.v(vinv) dc2.v(vinv) dc3.v(vinv) dc4.v(vinv) dc5.v(vinv)
*plot dc1.v(vc_p) dc2.v(vc_p) dc3.v(vc_p) dc4.v(vc_p) dc5.v(vc_p)
*plot dc1.v(vd) dc2.v(vd) dc3.v(vd) dc4.v(vd) dc5.v(vd)
*plot dc1.v(vb) dc2.v(vb) dc3.v(vb) dc4.v(vb) dc5.v(vb)


* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/res_tb_cm.txt v(vc_p) dc1.v(vsweep)/(dc1.i(Vmeas)) dc2.v(vsweep)/(dc2.i(Vmeas)) dc3.v(vsweep)/(dc3.i(Vmeas)) dc4.v(vsweep)/(dc4.i(Vmeas)) dc5.v(vsweep)/(dc5.i(Vmeas))



*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  transmission_gate.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/schematic/xschem/transmission_gate.sch
.subckt transmission_gate VDD vctrl vin vout VSS vinv
*.iopin vin
*.iopin VDD
*.iopin VSS
*.iopin vout
*.ipin vctrl
*.opin vinv
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 vinv vctrl VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 vinv vctrl VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout vinv vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM5 vout vout vout VDD sg13_hv_pmos w={tg_pgate_w*2} l={tg_ch_len} ng=2 m=1 mm_ok=1
XM6 vout vout vout VSS sg13_hv_nmos w={tg_ngate_w*2} l={tg_ch_len} ng=2 m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=1u
.param tg_ngate_w=1u
.param tg_pgate_w=5u
.param tg_ng=40


**** end user architecture code
.ends

.GLOBAL GND
.GLOBAL VDD
.end
